US08420655B2
5-{1-tert-Butyl-2-[5-chloro-2-(3-methyl-pyrazol-1-yl)-phenyl]-1H-benzimidazol-5-yl}-pyrimidin-2-ylamine
A 10 mL aliquot of 5-chloro-2-(3-methyl-pyrazol-1-yl)-benzaldehyde from the above reaction is filtered (in DMF, 50% pure by LC-MS, calculated mass based on purity is 235 mg, 1.10 mmol). The crude aldehyde is treated with 4-(2-amino-pyrimidin-5-yl)-N1-tert-butyl-benzene-1,2-diamine (200 mg, 0.78 mmol). Oxone (478 mg, 0.78 mmol) is added as a water solution (2 mL). The resulting mixture is warmed to 60° C. for 2 hours and cooled to room temperature. The reaction mixture is poured into water and extracted with EtOAc (3×). The combined organics are dried (MgSO4), filtered, and concentrated. Purification via flash chromatography (12 g silica gel, 0-6% MeOH/CH2Cl2) followed by mass triggered HPLC(CH3CN/H2O) affords the title compound (45 mg, 13%). LCMS (ESMS): m/z 458.20 (M++1)

reactant | 5-chloro-2-(3-methyl-pyrazol-1-yl)-benzaldehyde | ClC=1C=CC(=C(C=O)C1)N1N=C(C=C1)C | C11H9ClN2O
reactant | 4-(2-amino-pyrimidin-5-yl)-N1-tert-butyl-benzene-1,2-diamine | 0.78 mmol, 200 mg | NC1=NC=C(C=N1)C=1C=C(C(=CC1)NC(C)(C)C)N | C14H19N5
reactant | Oxone | 0.78 mmol, 478 mg | OOS(=O)[O-].[K+]
solvent | water | O | H2O
solvent | water | 2 mL | O | H2O
product | 5-{1-tert-Butyl-2-[5-chloro-2-(3-methyl-pyrazol-1-yl)-phenyl]-1H-benzimidazol-5-yl}-pyrimidin-2-ylamine | 45 mg, 13% | C(C)(C)(C)N1C(=NC2=C1C=CC(=C2)C=2C=NC(=NC2)N)C2=C(C=CC(=C2)Cl)N2N=C(C=C2)C | C25H24ClN7
